US09260425B2
To a mixture of tert-butyl 1-(5-(5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-3-yl)piperidin-4-ylcarbamate (45.0 mg, 0.0807 mmol), 3-Pyridylboronic acid (29.8 mg, 0.242 mmol) and 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (9.888 mg, 0.01211 mmol) in Acetonitrile (1.01 mL, 19.4 mmol) was added 1.0 M of Potassium acetate in Water (0.121 mL) and 1.0 M of Sodium carbonate in Water (0.121 mL). The reaction mixture was irradiated in microwave at 125° C. for 20 min. The reaction was filtered thru celite. The filtrate was washed H2O and brine. The organic layer was dried with Na2SO4, filtered, and concentrated to give tert-butyl 1-(5-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-3-yl)piperidin-4-ylcarbamate.

reactant | tert-butyl 1-(5-(5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-3-yl)piperidin-4-ylcarbamate | 0.0807 mmol, 45.0 mg | BrC=1C=C2C(=CN1)N(N=C2C=2C=C(C=NC2)N2CCC(CC2)NC(OC(C)(C)C)=O)C2OCCCC2 | C26H33BrN6O3
reactant | 3-Pyridylboronic acid | 0.242 mmol, 29.8 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Acetonitrile | 19.4 mmol, 1.01 mL | C(C)#N | C2H3N
reactant | Potassium acetate | 1.0 M | C(C)(=O)[O-].[K+]
solvent | Water | 0.121 mL | O | H2O
solvent | Sodium carbonate | 1.0 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | 0.121 mL | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.01211 mmol, 9.888 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 1-(5-(5-(pyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-3-yl)piperidin-4-ylcarbamate | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2C=2C=C(C=NC2)N2CCC(CC2)NC(OC(C)(C)C)=O)C2OCCCC2 | C31H37N7O3
